US07919488B2
To a suspension of [5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetic acid (300 mg, 0.96 mmol) in THF (5 mL) and DMF (2 mL) was added CDI (345 mg, 2.12 mmol) and the suspension sonicated for 5 minutes to give a solution that was stirred for 2 hours at room temperature. To this was added acetic hydrazide (210 mg, 2.89 mmol) and the resulting suspension stirred for 18 hours at room temperature. The resulting suspension was diluted with water (50 mL) and the solid filtered off and washed with water (30 mL) and EtOAc (50 mL) to yield pure N′-acetyl-2-[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetohydrazide. This was suspended in THF (5 mL) then Burgess' reagent (279 mg, 1.17 mmol) was added and the mixture heated to reflux for 2 hours. The reaction was cooled to ambient temperature, the volatiles removed in vacuo, and the residue was taken into EtOAc (50 mL) and washed with water (2×50 mL), brine (50 mL), dried over MgSO4, filtered and stripped. The residue was purified by Biotage flash chromatography, eluting with 1-4% MeOH/DCM to afford the title compound as a white solid, 200 mg, 73%. 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 8.50-8.68 (2 H, m), 7.52-7.70 (2 H, m), 7.16 (2 H, dd, J=8.59, 5.31 Hz), 6.93-7.08 (2 H, m), 6.44 (1 H, s), 5.40 (2 H, s), 4.08 (2 H, s), 2.47 (3 H, s); m/z (APCI+) for C19H16N5FO 350.1 (M+H)+.

reactant | [5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetic acid | 0.96 mmol, 300 mg | FC1=CC=C(CC2=CC(=NN2CC(=O)O)C2=CC=NC=C2)C=C1 | C17H14FN3O2
reactant | CDI | 2.12 mmol, 345 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | acetic hydrazide | 2.89 mmol, 210 mg | C(C)(=O)NN | C2H6N2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | N′-acetyl-2-[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetohydrazide | C(C)(=O)NNC(CN1N=C(C=C1CC1=CC=C(C=C1)F)C1=CC=NC=C1)=O | C19H18FN5O2
